US08049016B2
Synthesis of 1-(2-cyclopropylethyl)-3-(4-methyl-5-(1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(2-cyclopropylethyl) imidazolidin-2-one (0.30 g, 1.00 mmol) in N,N-dimethylformamide (10 mL) was added N,N-dimethylformamide dimethyl acetal (0.30 mL, 2.25 mmol). The reaction mixture was heated for 23 hours at 110° C., followed by the addition of hydrazine monohydrate (0.30 mL, 6.16 mmol). The reaction mixture was heated for another 10 minutes at 110° C., and concentrated in vacuo. The residue was washed with water and triturated with ethyl acetate to afford the title compound as a white solid in 71% yield (0.23 g): mp 147-149° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 7.77-7.75 (m, 1H), 6.40 (d, J=1.2 Hz, 1H), 4.00-3.94 (m, 2H), 3.58-3.549 (m, 2H), 3.25 (t, J=6.9 Hz, 2H), 2.36 (s, 3H), 1.46-1.34 (m, 2H), 0.89-0.81 (m, 1H), 0.69-0.64 (m, 2H), 0.05-0.02 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 156.0, 155.5, 144.1, 142.3, 130.2, 117.9, 103.1, 43.8, 42.4, 42.3, 32.1, 16.9, 8.8, 4.5; MS (ES+) m/z 318.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(2-cyclopropylethyl) imidazolidin-2-one | 1.00 mmol, 0.30 g | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CCC1CC1)=O)C | C14H19N3O2S
reactant | N,N-dimethylformamide dimethyl acetal | 2.25 mmol, 0.30 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine monohydrate | 6.16 mmol, 0.30 mL | O.NN
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(2-cyclopropylethyl)-3-(4-methyl-5-(1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one | 71% yield | C1(CC1)CCN1C(N(CC1)C=1SC(=C(N1)C)C1=NNC=C1)=O | C15H19N5OS
